US05374604
To a solution of 2-methyl-2-chloromethyloxirane (50 g; 0.47 mol) in concentrated hydrochloric acid (23 ml) at ice-bath temperature was added a solution of sodium cyanide (27.4 g; 0.56 mol) in hydrochloric acid (23 ml). After stirring for 10 hours at that temperature, the reaction mixture was warmed to 40° C. and a solution of potassium cyanide (33.8 g; 0.52 mol) in water (50 ml) was added. The reaction mixture was warmed to 50° C. and stirred for 4 hours. After cooling, the mixture was neutralized and extracted 3 times each with ethyl acetate (150 ml). The combined extracts were dried with anhydrous magnesium sulphate. Removal of the solvent in vacuo afforded 1,3-dicyano-2-methyl-2-hydroxypropane (56.4 g; 96%). This compound was added carefully to a 33% wet solution of hydrogen bromide in glacial acetic acid at ice-bath temperature. The reaction mixture was stirred for 3 days at ambient temperature. The solvent was removed in vacuo and the residual oil brought to pH 12 with a 10 molar aqueous solution of sodium hydroxide. The alkaline solution was extracted 3 times each with ethyl acetate (100 ml). The extracts were combined and the solvent removed in vacuo to afford 6-amino-2-bromo-4-methylpyridine (56 g; 66%) as colorless crystals. Melting point 99° C.

reactant | 2-methyl-2-chloromethyloxirane | 0.47 mol, 50 g | CC1(OC1)CCl | C4H7ClO
reactant | sodium cyanide | 0.56 mol, 27.4 g | [C-]#N.[Na+]
reactant | potassium cyanide | 0.52 mol, 33.8 g | [C-]#N.[K+]
solvent | hydrochloric acid | 23 ml | Cl | ClH
solvent | hydrochloric acid | 23 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 1,3-dicyano-2-methyl-2-hydroxypropane | 56.4 g, 96% | C(#N)CC(CC#N)(O)C | C6H8N2O
